US04666920
10.38 g of ethyl 2-(2,3,4,5-tetrafluorobenzoyl)-3-(2-propylidenehydrazino)-acrylate, 2 g of sodium fluoride and 60 ml of dimethylformamide are heated at 150°-160° C. for 2.5 hours. The dimethylformamide is stripped off in vacuo, the residue is taken up in CH2Cl2 /H2O and the CH2Cl phase is concentrated in vacuo, after drying with Na2SO4. Recrystallization from ethanol gives 6 g of ethyl 6,7,8-trifluoro-1-(2-propylideneamino)-1,4-dihydro-4-oxo-3-quinolinecarboxylate of melting point 166° C. A suspension of 6 g of the propylideneamino-quinolinecarboxylic acid ester in 72 ml of isopropanol and 0.7 g of water is heated at 70° C. with 0.16 g of p-toluenesulphonic acid for 1 hour. About 50 ml are then distilled off under normal pressure, and 25 ml of water are added to the residue. The solid is filtered off with suction in the cold and rinsed with an isopropanol/water (1:1) mixture. 4.7 g of ethyl 1-amino-6,7,8-trifluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylate of melting point 217° C. are obtained.

reactant | ethyl 2-(2,3,4,5-tetrafluorobenzoyl)-3-(2-propylidenehydrazino)-acrylate | 10.38 g | FC1=C(C(=O)C(C(=O)OCC)=CNN=CCC)C=C(C(=C1F)F)F | C15H14F4N2O3
reactant | sodium fluoride | 2 g | [F-].[Na+]
reactant | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
solvent | CH2Cl2 H2O | C(Cl)Cl.O
product | ethyl 6,7,8-trifluoro-1-(2-propylideneamino)-1,4-dihydro-4-oxo-3-quinolinecarboxylate | 6 g | FC=1C=C2C(C(=CN(C2=C(C1F)F)N=C(C)C)C(=O)OCC)=O | C15H13F3N2O3
